US09334267B2
1-(3,3-Dimethylcyclobutyl)-3-(2-fluoro-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)urea
Heat a mixture of 3,3-dimethylcyclobutanecarboxylic acid (0.230 g, 1.792 mmol), 2-fluoro-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (0.30 g, 1.195 mmol), triethylamine (TEA) (0.331 mL, 2.389 mmol) and diphenylphosphoryl azide (DPPA) (0.519 mL, 2.389 mmol) in dioxane (10 mL) at 100° C. for 2 h. Cool the mixture to RT, concentrate to dryness and purify via silica gel chromatography (10-100% EtOAc/Hexanes) to afford the title compound (220 mg, 49% yield). MS (m/z): 377.2 (M+1).

reactant | 3,3-dimethylcyclobutanecarboxylic acid | 1.792 mmol, 0.230 g | CC1(CC(C1)C(=O)O)C | C7H12O2
reactant | 2-fluoro-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 1.195 mmol, 0.30 g | FC1=C(N)C=C(C(=C1)C)B1OC(C(O1)(C)C)(C)C | C13H19BFNO2
reactant | triethylamine | 2.389 mmol, 0.331 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 2.389 mmol, 0.519 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 1-(3,3-Dimethylcyclobutyl)-3-(2-fluoro-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)urea | 220 mg, 49% yield | CC1(CC(C1)NC(=O)NC1=C(C=C(C(=C1)B1OC(C(O1)(C)C)(C)C)C)F)C | C20H30BFN2O3
